US07759496B2
4-(6-Acetoxyindan-1-ylmethyl)-1H-imidazol-1-ium chloride
4-(6-hydroxy-indan-1-ylmethyl)-1H-imidazol-1-ium chloride (100 mg, 0.399 mmol) was dissolved in 1 ml of trifluoroacetic acid (TFA) and acetic acid chloride (0.510 mmol) was added. The mixture was stirred at room temperature for 24 h. TFA was evaporated and the residue was dissolved in water and made basic with 2 M NH3 (aq.). The aqueous phase was extracted with dichloromethane (DCM). The combined extracts were dried (Na2SO4) and evaporated. The residue was dissolved in diethyl ether and the solution was saturated with dry HCl gas. The precipitate was filtered and dried under vacuum. Yield 105 mg (82%) of a white hygroscopic solid. 1H NMR (CDCl3, TMS): δ 1.72 (m, 1H), 2.18-2.26 (m, 4H), 2.72-2.87 (m, 3H), 3.17 (dd, 1H), 3.56 (qui, 1H), 6.85 (m, 2H), 6.92 (s, 1H), 7.16 (d, 1H), 8.61 (s, 1H), 14.44 (s, 2H). 13C NMR (CDCl3, TMS): δ 21.11, 29.60, 30.46, 31.68, 43.93, 115.72, 117.00, 120.29, 125.33, 132.32, 132.40, 141.37, 146.32, 149.39, 170.11. HPLC-MS (EI): m/z=257.2 ((M+H)+—Cl−. Anal.—Calc. for C15H16N2O2.HCl.0.2CH2Cl2: C, 58.94; H, 5.66; N, 9.04. Found C, 58.66; H, 5.78; N, 8.83.

reactant | 4-(6-hydroxy-indan-1-ylmethyl)-1H-imidazol-1-ium chloride | 0.399 mmol, 100 mg | [Cl-].OC1=CC=C2CCC(C2=C1)CC=1N=C[NH2+]C1
reactant | acetic acid chloride | 0.510 mmol | C(C)(=O)Cl | C2H3ClO
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(6-Acetoxyindan-1-ylmethyl)-1H-imidazol-1-ium chloride | [Cl-].C(C)(=O)OC1=CC=C2CCC(C2=C1)CC=1N=C[NH2+]C1 | InChI=1S/C15H16N2O2.ClH/c1-10(18)19-14-5-4-11-2-3-12(15(11)7-14)6-13-8-16-9-17-13;/h4-5,7-9,12H,2-3,6H2,1H3,(H,16,17);1H
